US08383644B2
(S)-2-{[(3S,8S)-3-(4-Cyclopentylmethoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (20 mg) was reacted with cyclopentylmethanol according to General Procedure K and the resulting ester was hydrolyzed according to General Procedure AB to provide (3S,8S)-3-(4-cyclopentylmethoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (18 mg). The title compound (17 mg) was prepared from (3S,8S)-3-(4-cyclopentylmethoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (18 mg) and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride according to General Procedures L and B. LCMS (m/z): 781.

reactant | (3S,8S)-3-(4-cyclopentylmethoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 18 mg | C1(CCCC1)COC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)[C@@H](CC)C2=CC=CC=C2)C(=O)O)OC1 | C33H37NO5
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
product | (S)-2-{[(3S,8S)-3-(4-Cyclopentylmethoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 17 mg | C1(CCCC1)COC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)[C@@H](CC)C2=CC=CC=C2)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C49H53N3O6
